US07872031B2
To solution of ethyl(ethoxycarbonyl)methyl-2-(5-bromothiophen-2-yl)ethylcarbamate (30.0 g, 105.26 mmol) in ethanol at 0° C. was added dropwise 200 mL of 1N NaOH. The reaction mixture was warmed to RT and stirred for 24 hours. The reaction mixture was extracted with Et2O to remove unreacted starting material and the aqueous layer acidified to pH=1 with 1N HCl. The aqueous solution was extracted with ethyl acetate (2×500 mL) and the combined organics were washed with brine solution, dried (Na2SO4), filtered, and evaporated to obtain crude product. 2-(N-(Ethoxycarbonyl)-N-(2-(thiophen-2-yl)ethyl)amino)acetic acid (74% yield) was obtained as a colorless solid after washing the crude product with pentane; ES-MS: 258.2 (M+H).

reactant | ethyl(ethoxycarbonyl)methyl-2-(5-bromothiophen-2-yl)ethylcarbamate | 105.26 mmol, 30.0 g | C(C)OC(N(CCC=1SC(=CC1)Br)CC(=O)OCC)=O | C13H18BrNO4S
reactant | NaOH | 1N, 200 mL | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-(N-(Ethoxycarbonyl)-N-(2-(thiophen-2-yl)ethyl)amino)acetic acid | 74% yield | C(C)OC(=O)N(CCC=1SC=CC1)CC(=O)O | C11H15NO4S
